US03984415
2.8 g of 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione was dissolved in 30 ml of dry dimethylformamide. To the solution was added 0.6 g of about 50 % sodium hydride, and stirring was performed for 30 minutes. To the mixture was further added 3.5 g of diethylsulfite and the whole was reacted for 2 hours at room temperature. After the reaction was finished, the solvent was distilled off from the mixture under reduced pressure. To the residue thus obtained was added water to precipitate a crude product. This product was recrystallized from methanol to yield 2.7 g of 1-(m-nitrophenyl)-3-ethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione as pale yellow prisms, melting at 210°-211°C.

reactant | 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=C1N=CC=C2)=O)=O | C13H8N4O4
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | diethylsulfite | 3.5 g | C(C)OS(=O)OCC | C4H10O3S
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(m-nitrophenyl)-3-ethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.7 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC)=O | C15H12N4O4
